US08039469B2
Step 1: Preparation of 2-Chloro-4-(3,6-dihydro-2H-pyran-4-yl)-6-morpholin-4-yl-[1,3,5]triazine
In a three necked flask under nitrogen equipped was dissolved 2,4-dichloro-6-morpholin-4-yl-[1,3,5]triazine (610 mg, 2.6 mmol), tributyldihydropyranylstannane (1.45 g, 3.89 mmol, 1.5 eq), and (Ph3P)2PdCl2 (150 mg, 0.21 mmol, 0.1 eq) in anhydrous dioxan (5 ml). The reaction mixture was heated under stirring to 90° C. for 16 hrs. For purification silica gel (10 g) was added to the mixture and the solvent was removed to let the product adsorbed on the silica gel. The silica gel plug was placed on a column and the mixture was flash chromatographed with hexane:ethyl acetate (10:1) to give after removal solvent the product as off white solid (345 mg=47% yield); MS (ESI) m/z 281.

reactant | 2,4-dichloro-6-morpholin-4-yl-[1,3,5]triazine | 2.6 mmol, 610 mg | ClC1=NC(=NC(=N1)Cl)N1CCOCC1 | C7H8Cl2N4O
reactant | tributyldihydropyranylstannane | 3.89 mmol, 1.45 g, 1.5 eq | C(CCC)[Sn](C1OC=CCC1)(CCCC)CCCC
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
catalyst | (Ph3P)2PdCl2 | 0.21 mmol, 150 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Chloro-4-(3,6-dihydro-2H-pyran-4-yl)-6-morpholin-4-yl-[1,3,5]triazine | 47% yield | ClC1=NC(=NC(=N1)C=1CCOCC1)N1CCOCC1 | C12H15ClN4O2
